* RC Low-pass Filter – LTspice Headless Batch Test
* -------------------------------------------------------
* Simple RC circuit driven by a 0→5 V step.
* RC time constant τ = R1·C1 = 1 kΩ · 1 µF = 1 ms
*
* After 5 ms (≥5τ) the capacitor should be fully charged:
*   V(out) → 5 V
*
* .meas statements written to the .log file are checked by
* test.sh to confirm the simulation ran correctly.

* Step: 0 V → 5 V at t=0, stays high for the entire transient
V1  in  0  PWL(0 0 1n 5)
R1  in  out  1k
C1  out  0   1u

.tran 0.1u 5m

* Max voltage seen at the output – expect ≈4.97 V (5·(1−e⁻⁵))
.meas tran vout_max  MAX  V(out)

* Average voltage over the last millisecond – expect >4.9 V
.meas tran vout_ss   AVG  V(out)  FROM=4m  TO=5m

* Time at which V(out) first crosses one τ voltage: 5·(1−e⁻¹) ≈ 3.161 V
* Expect ≈1 ms
.meas tran tau_rise  WHEN V(out)=3.161  RISE=1

.backanno
.end
